US04720352
Vanadium 2-ethylhexanoate
A mixture of 69.6 grams (0.589 mole) of ammonium metavanadate, 342.0 grams (2.356 moles) of 2-ethylhexanoate (acid number 387) and 130 grams of mineral spirits was heated to 95° C. and held for 1 hour without reaction occurring. The temperature was gradually increased to 195° C. in 3.5 hours while the water of reaction was removed. The reaction product solidified at room temperature.

reactant | ammonium metavanadate | 0.589 mole, 69.6 grams | [NH4+].[O-][V](=O)=O
reactant | 2-ethylhexanoate | 2.356 moles, 342.0 grams | C(C)C(C(=O)[O-])CCCC
solvent | water | O | H2O
product | Vanadium 2-ethylhexanoate | C(C)C(C(=O)[O-])CCCC.[V+5].C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC | InChI=1S/5C8H16O2.V/c5*1-3-5-6-7(4-2)8(9)10;/h5*7H,3-6H2,1-2H3,(H,9,10);/q;;;;;+5/p-5
